US04847254
5-Nitro-N,N-dipropyl-3-benzothiophencarboxamide
45 g of 5-nitro-3-benzothiophencarboxylic acid were suspended in 150 ml of 1,1,1-trichloroethane. 100 ml of thionyl chloride and 0.5 ml of DMF were added. The mixture was refluxed for 2 hours resulting in a clear solution. The solvents were evaporated and remaining thionyl chloride was removed by evaporation twice with toluene. The crystalline product thus obtained was added in small portions to a solution of 60 g of dipropylamine in 500 ml of dichloromethane below 10° C. The mixture was heated to 30° C. and eluted through 200 g of silica gel with 1500 ml of a mixture (1:1) of dichloromethane and ethyl acetate. The organic phase was washed with water, dried (MgSO4) and evaporated. 200 ml of n-heptane were added and the crystalline product filtered off. Yield: 56 g. M.P. 100° C.

reactant | 5-nitro-3-benzothiophencarboxylic acid | 45 g | [N+](=O)([O-])C=1C=CC2=C(C(=CS2)C(=O)O)C1 | C9H5NO4S
reactant | thionyl chloride | 100 ml | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | 0.5 ml | CN(C)C=O | C3H7NO
reactant | dipropylamine | 60 g | C(CC)NCCC | C6H15N
solvent | 1,1,1-trichloroethane | 150 ml | ClC(C)(Cl)Cl | C2H3Cl3
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 5-Nitro-N,N-dipropyl-3-benzothiophencarboxamide | [N+](=O)([O-])C=1C=CC2=C(C(=CS2)C(=O)N(CCC)CCC)C1 | C15H18N2O3S
